US07169787B2
N-(4-Pyridylmethyl)-1-cyclopropylmethyl-7-azaindole-3-carboxylic Acid Amide
Sodium hydride (60%, 1.14 g) is suspended in 21 mL of THF. While stirring at about 10° C., a solution of 0.93 g of 4-aminomethylpyridine (8.6 mmoles) in 21 mL of THF is added dropwise. After about 15 minutes, the previously prepared solution of 1-cyclopropylmethyl-7-azaindole-3-carboxylic acid chloride is added dropwise to the reaction mixture. Subsequently, the whole is refluxed for 3 hours. After cooling, the reaction mixture is mixed with 36 mL of ethyl acetate and 36 mL of water. The phases are separated and the organic phase is washed with water. The solvent is distilled off and the residue recrystallized from ethanol.

reactant | Sodium hydride | 1.14 g | [H-].[Na+]
reactant | 4-aminomethylpyridine | 8.6 mmoles, 0.93 g | NCC1=CC=NC=C1 | C6H8N2
reactant | 1-cyclopropylmethyl-7-azaindole-3-carboxylic acid chloride | C1(CC1)CN1C=C(C2=CC=CN=C12)C(=O)Cl | C12H11ClN2O
reactant | ethyl acetate | 36 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 21 mL | C1CCOC1 | C4H8O
solvent | THF | 21 mL | C1CCOC1 | C4H8O
solvent | water | 36 mL | O | H2O
product | N-(4-Pyridylmethyl)-1-cyclopropylmethyl-7-azaindole-3-carboxylic Acid Amide | N1=CC=C(C=C1)CNC(=O)C1=CN(C2=NC=CC=C12)CC1CC1 | C18H18N4O
